US06821988B2
N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-3,6-bis(dimethylamino)hexanamide
A stirred mixture of N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}6-chloro-2-hexenamide (0.58 g, 1.0 mmol), NaI (0.15 g, 1.0 mmol), tetrabutylammonium iodide (74 mg, 0.20 mmol), 4.0 ml of dimethylformamide, and 10 ml of 2.0 M dimethylamine in tetrahydrofuran was heated at 50° C. for 8 h. After the addition of 5 ml more 2.0 M dimethylamine in tetrahydrofuran the mixture was heated at 50° C. for an additional 8 h. After evaporation of the dimethylamine and tetrahydrofuran, the mixture was stirred in water, brought to pH˜9 with potassium carbonate, and filtered. The crude product was washed with water, dried, and chromatographed on silica gel with methylene chloride-ethyl acetate-methanol-triethylamine to give 464 mg of the title compound as an off-white solid; mass spectrum (electrospray, m/e) 628.9 (M+H)+, 315.1 (M+2H)+2.

reactant | N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}6-chloro-2-hexenamide | 1.0 mmol, 0.58 g | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(C=CCCCCl)=O)OCC)C#N)C=C1)Cl | C31H28Cl2N4O3
reactant | NaI | 1.0 mmol, 0.15 g | [Na+].[I-]
reactant | dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
reactant | dimethylamine | 2.0 M, 10 ml | CNC | C2H7N
reactant | dimethylamine | 2.0 M | CNC | C2H7N
catalyst | tetrabutylammonium iodide | 0.20 mmol, 74 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-3,6-bis(dimethylamino)hexanamide | 464 mg | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(CC(CCCN(C)C)N(C)C)=O)OCC)C#N)C=C1)Cl | C35H41ClN6O3
